US07012074B2
tert-Butyl 8-[4-(4-cyanophenyl)-4-(3,4-dimethoxyphenoxy)butyl]-3,8-diazabicyclo[3.2.1]octane-3-carboxylate
To a solution of 4-[4-(3,8-diazabicyclo[3.2.1]oct-8-yl)-1-(3,4-dimethoxyphenoxy)butyl]benzonitrile (0.95 g, 2.25 mmol; see Preparation E) in THF (100 mL) was added di-tert-butyl dicarbonate (0.54 g, 2.48 mmol). The resulting solution was stirred for 2.5 h. At this point, additional di-tert-butyl dicarbonate (0.27 g, 1.24 mmol) was added and the solution was stirred for an additional 2 h before being concentrated in vacuo. Flash chromatography on silica gel, eluting with CH2Cl2:MeOH (95:5), then a second flash chromatography eluting with EtOAc (100%) gave 0.66 g (56%) of the title compound.

reactant | 4-[4-(3,8-diazabicyclo[3.2.1]oct-8-yl)-1-(3,4-dimethoxyphenoxy)butyl]benzonitrile | 2.25 mmol, 0.95 g | C12CNCC(CC1)N2CCCC(OC2=CC(=C(C=C2)OC)OC)C2=CC=C(C#N)C=C2 | C25H31N3O3
reactant | di-tert-butyl dicarbonate | 2.48 mmol, 0.54 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 1.24 mmol, 0.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-Butyl 8-[4-(4-cyanophenyl)-4-(3,4-dimethoxyphenoxy)butyl]-3,8-diazabicyclo[3.2.1]octane-3-carboxylate | 0.66 g, 56% | C(#N)C1=CC=C(C=C1)C(CCCN1C2CN(CC1CC2)C(=O)OC(C)(C)C)OC2=CC(=C(C=C2)OC)OC | C30H39N3O5
